US20010027196A1
Following the method of Shapiro et al. (Khim. Geterotsikl. Soedin. 1982, 11, 1463), to a stirred solution of 80.3 g (2.00 mol) sodium hydroxide in 330 ml water at 0-5° C. was added dropwise 18 ml (0.35 mol) bromine. 25 ml (0.25 mol) 5-methyl-2-furfural was then added dropwise over 90 minutes and stirring continued for a further 45 minutes at 0-5° C. The reaction mixture was then extracted with ether and the phases separated. The aqueous phase was acidified to pH 1 with concentrated hydrochloric acid and the resulting precipitate collected by filtration and dried in vacuo to afford 19.1 g (60%) 5-methyl-2-furoic acid as a beige crystalline solid. 1H NMR δ (CDCl3, 250 MHz): 8.00-6.60 (1H, v. br. s), 7.24 (1H, d, J=3.4 Hz), 6.17 (1H, d, J=3.4 Hz), 2,42 (3H, s).

reactant | sodium hydroxide | 2.00 mol, 80.3 g | [OH-].[Na+]
reactant | bromine | 0.35 mol, 18 ml | BrBr | Br2
reactant | 5-methyl-2-furfural | 0.25 mol, 25 ml | CC1=CC=C(O1)C=O | C6H6O2
solvent | water | 330 ml | O | H2O
product | 5-methyl-2-furoic acid | 19.1 g, 60% | CC1=CC=C(O1)C(=O)O | C6H6O3
